US08604061B2
To a stirred, cooled (0° C.) mixture of 2-amino-2-phenyl-propan-1-ol (266 mg) and K2CO3 (292 mg) in THF (5 ml) under an argon atmosphere was added a solution of cyanogen bromide (292 mg) in THF (5 ml). The ice bath was removed and stirring at r.t. was continued for 18 h. The mixture (white suspension) was taken up in EtOAc/H2O 1:1. The aqueous phase was back extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give 4-methyl-4-phenyl-4,5-dihydro-oxazol-2-ylamine (204 mg) as white solid. MS (ISP): 177.1 ([M+H]+)

reactant | 2-amino-2-phenyl-propan-1-ol | 266 mg | NC(CO)(C)C1=CC=CC=C1 | C9H13NO
reactant | K2CO3 | 292 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 292 mg | N#CBr | CBrN
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-methyl-4-phenyl-4,5-dihydro-oxazol-2-ylamine | 204 mg | CC1(N=C(OC1)N)C1=CC=CC=C1 | C10H12N2O
